US04072705
Preparation of 4'-chloro-4-hydroxybenzophenone
510 g of aluminium chloride (3.82 M), then 3.5 l of dry methylene chloride, and, slowly, 430 g (4 M) of anisole are added to a 5-liter flask; the flask is cooled to maintain the temperature at about 25° C, and 600 g (3.44 M) of 4-chlorobenzoyl chloride is then added dropwise; the reaction mixture is next heated 6 hours under reflux, is left to cool to about 25° C, and the reaction mixture is poured onto 5 kg of ice and 0.5 l of concentrated HCl; the mixture is stirred well during this hydrolysis; the methylene chloride phase is decanted, washed once with water, and transferred to another 5-liter vessel. The methylene chloride is removed by evaporation and replaced in the flask by 2 l of chlorobenzene; a Dean-Stark apparatus is connected and the reaction mixture is refluxed to dehydrate the medium; when this operation is complete the mixture is cooled to approximately 50° C and 800 g (6 M) of aluminium chloride is added; the reaction mixture is heated 1 hour 30 minutes under reflux (very gentle reflux), and demethylation proceeds rapidly; the reaction mixture is cooled and poured onto 6 kg of ice and 0.5 l of concentrated HCl; the mixture is stirred for 1 hour 30 minutes and the precipitate is dried; the latter is washed with water, with methylene chloride, and then dried:

reactant | aluminium chloride | 3.82 M, 510 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | anisole | 4 M, 430 g | C1(=CC=CC=C1)OC | C7H8O
reactant | 4-chlorobenzoyl chloride | 3.44 M, 600 g | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | HCl | 0.5 l | Cl | ClH
solvent | methylene chloride | 3.5 l | C(Cl)Cl | CH2Cl2
product | 4'-chloro-4-hydroxybenzophenone | ClC1=CC=C(C=C1)C(C1=CC=C(C=C1)O)=O | C13H9ClO2
